US04412999
Step A: Preparation of (±)-ethyl 5-(1-methyl-4-piperidylidene)-5H-dibenzo[a,d]cycloheptene-3-carboxylate
Racemic 5-(1-methyl-4-piperidylidene)-5H-dibenzo[a,d]cycloheptene-3-carboxylic acid (0.03 mole) and an equal molar amount of boron trifluoride etherate in 60 ml of absolute ethanol was refluxed overnight. The solution was evaporated to dryness and the residue was partitioned between ether and a saturated aqueous solution of sodium bicarbonate. The ether was separated and dried over MgSO4. The resulting ethyl ester, crystallized from acetonitrile, had m.p. 102°-103° C.

reactant | Racemic 5-(1-methyl-4-piperidylidene)-5H-dibenzo[a,d]cycloheptene-3-carboxylic acid | 0.03 mole | CN1CCC(CC1)=C1C2=C(C=CC3=C1C=C(C=C3)C(=O)O)C=CC=C2 | C22H21NO2
reactant | boron trifluoride etherate | B(F)(F)F.CCOCC
solvent | ethanol | 60 ml | C(C)O | C2H6O
product | (±)-ethyl 5-(1-methyl-4-piperidylidene)-5H-dibenzo[a,d]cycloheptene-3-carboxylate | CN1CCC(CC1)=C1C2=C(C=CC3=C1C=C(C=C3)C(=O)OCC)C=CC=C2 | C24H25NO2
